US08530665B2
5-(tert-Butyldimethylsilyloxy)-1H-indazole
Charge a 10 L reaction vessel with N,N-dimethylformamide (DMF, 2.50 L), 5-hydroxyindazole (150.20 g, 1.12 mol) and 1H-imidazole (114.35 g, 1.68 mol). Cool the mixture to 0° C. and add tert-butyldimethylchlorosilane (253.16 g, 1.68 mol) over 0.5 hours. Stir the mixture at 18° C. for 3 hours. Add water (2.5 L) to the reaction slowly with an ice bath at 5° C. to maintain an internal temperature at around 20° C. Transfer the mixture to a separating funnel and extract with EA (2×2.5 L). Combine the extracts and wash with water (3×2.5 L) and brine. Dry the organic solutions over anhydrous sodium sulfate, filter, and evaporate to a red oil. Pass the oil through a silica gel pad and elute with eluent (0% to 30% EA in hexane) to afford the title compound as an orange oil which crystallizes. Yield: 300 g (100%). MS (ES) m/z 249 [M+1]+.

reactant | N,N-dimethylformamide | 2.50 L | CN(C=O)C | C3H7NO
reactant | 5-hydroxyindazole | 1.12 mol, 150.20 g | OC=1C=C2C=NNC2=CC1 | C7H6N2O
reactant | 1H-imidazole | 1.68 mol, 114.35 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 1.68 mol, 253.16 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | water | 2.5 L | O | H2O
product | 5-(tert-Butyldimethylsilyloxy)-1H-indazole | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=NNC2=CC1 | C13H20N2OSi
